US04480100
[2-[(3-Nitro-2-pyridinyl)amino]phenyl]phenylmethanone
A mixture of 56.0 g (0.28 mole) of 2-aminobenzophenone and 49.6 g (0.31 mole) of 2-chloro-3-nitropyridine was heated by means of an oil bath with stirring at 150° C. for 45 minutes (evolution of hydrogen chloride gas ceased). The product was partitioned between 130 ml of methylene chloride and 250 ml aqueous bicarbonate solution. The aqueous layer was extracted three times with 50 ml portions of methylene chloride. All methylene chloride solutions were combined and dried over sodium sulfate and filtered. Methylene chloride was stripped off in a rotary vacuum evaporator to give a dark brown viscous oil. The product was purified by column chromatography, eluting with methylene chloride on silica gel. On evaporation of the methylene chloride, an orange oil was obtained which crystallized slowly. The crystals were triturated in 105 ml of 1:1 tert-butyl alcohol/petroleum ether (30→60). Crystalline yellow solid, 50.5 g (58%) was obtained by contrifuging and drying, m.p. 85° C.

reactant | 2-aminobenzophenone | 0.28 mole, 56.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 2-chloro-3-nitropyridine | 0.31 mole, 49.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrogen chloride | Cl | ClH
product | [2-[(3-Nitro-2-pyridinyl)amino]phenyl]phenylmethanone | [N+](=O)([O-])C=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | C18H13N3O3
